US04307094
1.2 g (0.005 mol) of 2-(2-chloroethyl)-2,3,5,8-tetrahydro-1,3-dioxo-1H-1,2,4-triazolo[1,2-a]pyridazine-5-carboxylic acid were dissolved in 10 ml (0.10 mol) of 1-M sodium hydroxide solution. The solution was treated with 1 ml (0.008 mol) of benzyl mercaptan and the mixture was stirred at 100° C. for 3 hours. The mixture was acidified with concentrated hydrochloric acid and extracted with two 20 ml portions of ethyl acetate. The organic layer was extracted with 50 ml of saturated sodium bicarbonate solution. The aqueous extract was acidified with concentrated hydrochloric acid and re-extracted with two 25 ml portions of ethyl acetate. The organic extracts were dried over magnesium sulphate and evaporated to give 2-(2-benzylthioethyl)-2,3,5,8-tetrahydro-1,3-dioxo-1H-1,2,4-triazolo[1,2-a]pyridazine-5-carboxylic acid in the form of a colourless oil.

reactant | 2-(2-chloroethyl)-2,3,5,8-tetrahydro-1,3-dioxo-1H-1,2,4-triazolo[1,2-a]pyridazine-5-carboxylic acid | 0.005 mol, 1.2 g | ClCCN1C(N2N(CC=CC2C(=O)O)C1=O)=O | C9H10ClN3O4
reactant | benzyl mercaptan | 0.008 mol, 1 ml | C(C1=CC=CC=C1)S | C7H8S
reactant | hydrochloric acid | Cl | ClH
solvent | sodium hydroxide | [OH-].[Na+]
product | 2-(2-benzylthioethyl)-2,3,5,8-tetrahydro-1,3-dioxo-1H-1,2,4-triazolo[1,2-a]pyridazine-5-carboxylic acid | C(C1=CC=CC=C1)SCCN1C(N2N(CC=CC2C(=O)O)C1=O)=O | C16H17N3O4S
